US04970115
(a) Preparation of dioctyltin dihydride:
The operating procedure followed was the same as that employed in Example 1 for the synthesis of dibutyltin dihydride, except that the starting material was dioctyltin dichloride.

reactant | dibutyltin dihydride | C(CCC)[SnH2]CCCC
reactant | dioctyltin dichloride | C(CCCCCCC)[Sn](CCCCCCCC)(Cl)Cl
product | dioctyltin dihydride | C(CCCCCCC)[SnH2]CCCCCCCC | InChI=1S/2C8H17.Sn.2H/c2*1-3-5-7-8-6-4-2;;;/h2*1,3-8H2,2H3;;;
